US04413122
To a solution of 2923 g. (20 mol) 1.4;3.6-dianhydro-D-glucitol in 16 liters of anhydrous pyridine, one adds dropwise, with stirring and cooling to -15°, 2 liters (25 mol) methanesulphonic acid chloride, stirs for 15 hrs. at -15° and distils off the pyridine under reduced pressure. The oily residue is mixed with 10 liters of water, briefly heated to boiling and, after cooling, filtered off from 1.4;3.6-dianhydro-D-glucitol 2,5-dimethanesulphonate which has crystallised out and the filter cake is washed 2 times with 2.5 liters amounts of water. The combined filtrates are, after the addition of 1 kg. (25 mol) sodium hydroxide, evaporated under reduced pressure. The residue, consisting of a mixture of 1.4;3.6-dianhydro-D-glucitol 2- and 5-methanesulphonate and sodium methanesulphonate, is, without further purification, subjected to aqueous ammonolysis. For this purpose, one mixes with 4 liters of water and 12 liters of 25% aqueous ammonia and heats the solution thus obtained for 2 days, with stirring, in a closed steel autoclave to 120° (pressure: about 7-8 bar). After cooling and decompressing, one adds 400 g. active charcoal thereto, filters, concentrates the filtrate to about 4 liters and extracts therefrom twice with 1 liter amounts of chloroform the 1.4;2.5;3.6-trianhydro-D-mannitol formed as by-product (in all about 90 g.=0.7 mol) from the 1.4;3.6-dianhydro-D-glucitol 2-methanesulphonate. The aqueous phase is brought to pH=9 by the addition of sodium hydroxide and evaporated to dryness. The semi-solid residue is, for the separating off of inorganic material, boiled with 10 liters of ethanol and, after cooling, filtered. The evaporated filtrate is dissolved, with warming, in 10 liters of n-butanol, dried over anhydrous sodium sulphate, filtered, evaporated and fractionally distilled in vacuo. After a pre-running (0.4 mm.Hg 122°-135°) of 55 g. (0.38 mol) 5-amino-5-desoxy-1.4;3.6-dianhydro-L-iditol slightly contaminated with trianhydro-D-mannitol, there distil, between 140° and 144° at 0.15 to 0.2 mm.Hg, a total of 681 g. (4.69 mol) pure 5-amino-5-desoxy-1.4;3.6-dianhydro-L-iditol as a slowly solidifying pale yellowish oil. M.p. (after recrystallisation from chloroform/ethyl acetate/ether) 103°-4°; [α]D25 31.6 (c 2.0; water).

reactant | 1.4;3.6-dianhydro-D-glucitol | 20 mol | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | methanesulphonic acid chloride | 25 mol, 2 liters | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 25 mol | [OH-].[Na+]
reactant | sodium methanesulphonate | CS(=O)(=O)[O-].[Na+]
reactant | charcoal | C | CH4
solvent | pyridine | 16 liters | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1.4;2.5;3.6-trianhydro-D-mannitol | C1[C@@H]2[C@@H]3[C@H](O1)[C@H](O2)CO3 | C6H8O3
